US04251539
3-Methyl-5-[2-(2-hydroxy-3-tert.-butylaminopropoxy)-styryl]-isoxazole hydrochloride
2.4 g of 3-methyl-5-[2-(2-hydroxy-3-chloropropoxy)-styryl]-isoxazole, 10 ml of tert.-butylamine and 50 ml of dioxane are heated for 10 hours at 100° C. in an autoclave. After distilling off the volatile constituents under reduced pressure, the very viscous crude product is partitioned between ether and 2 N sulfuric acid and the aqueous phase is cautiously rendered alkaline with 4 N sodium hydroxide solution and is finally extracted with ether. After drying the organic phase over sodium sulfate, the solvent is removed and the residue left is converted to 3-methyl-5-[2-(2-hydroxy-3-tert.-butylaminopropoxy)-styryl]-isoxazole hydrochloride, of melting point 216°-218° C., by the method described in Example 3.

reactant | 3-methyl-5-[2-(2-hydroxy-3-chloropropoxy)-styryl]-isoxazole | 2.4 g | CC1=NOC(=C1)C=CC1=C(C=CC=C1)OCC(CCl)O | C15H16ClNO3
reactant | tert.-butylamine | 10 ml | C(C)(C)(C)N | C4H11N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-Methyl-5-[2-(2-hydroxy-3-tert.-butylaminopropoxy)-styryl]-isoxazole hydrochloride | Cl.CC1=NOC(=C1)C=CC1=C(C=CC=C1)OCC(CNC(C)(C)C)O | InChI=1S/C19H26N2O3.ClH/c1-14-11-17(24-21-14)10-9-15-7-5-6-8-18(15)23-13-16(22)12-20-19(2,3)4;/h5-11,16,20,22H,12-13H2,1-4H3;1H
